US09403807B2
Step A: (E)-tert-butyl 1-(3-(4-chlorophenyl)-1-cyanopent-1-en-3-yl)-1H-indol-4-ylcarbamate
To a mixture of diethyl cyanomethylphosphonate (145 mg, 0.76 mmol), LiCl (43 mg, 1.01 mmol) and DBU (255 mg, 1.01 mmol) in acetonitrile (15 mL) was added a solution of tert-butyl 1-(2-(4-chlorophenyl)-1-oxobutan-2-yl)-1H-indol-4-ylcarbamate (210 mg, 1.02 mmol), as described in Example 21 Step B, in acetonitrile (3 mL). The mixture was stirred at room temperature for 2 h and the volatile was evaporated. The residue was purified by silica gel chromatography eluting with PE/EA (10/1 to 3/1, v/v) to afford the title compound as a white solid. LC/MS m/z=458.1 [M+Na]+.

reactant | diethyl cyanomethylphosphonate | 0.76 mmol, 145 mg | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | LiCl | 1.01 mmol, 43 mg | [Li+].[Cl-]
reactant | DBU | 1.01 mmol, 255 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | tert-butyl 1-(2-(4-chlorophenyl)-1-oxobutan-2-yl)-1H-indol-4-ylcarbamate | 1.02 mmol, 210 mg | ClC1=CC=C(C=C1)C(C=O)(CC)N1C=CC2=C(C=CC=C12)NC(OC(C)(C)C)=O | C23H25ClN2O3
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | (E)-tert-butyl 1-(3-(4-chlorophenyl)-1-cyanopent-1-en-3-yl)-1H-indol-4-ylcarbamate | ClC1=CC=C(C=C1)C(/C=C/C#N)(CC)N1C=CC2=C(C=CC=C12)NC(OC(C)(C)C)=O | C25H26ClN3O2
